US08067408B2
345(b) The 2-chloro-5-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)sulfonyl]-4-fluorobenzoic acid, was dissolved in 3 mL of DCM with 1,1-dimethylethyl (2S)-4-{[5′-(aminomethyl)-2′-fluoro-3-biphenylyl]methyl}-2-methyl-1-piperazinecarboxylate (41.3 mg, 0.1 mmol), and then added in HOBt (1.0 eq, 14.0 mg), and EDC (1.0 eq, 19.0 mg). The resultant solution was stirred overnight. The solution was then purified using a Gilson to give 1,1-dimethylethyl (2S)-4-[(5′-{[({2-chloro-5-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)sulfonyl]-4-fluorophenyl}carbonyl)amino]methyl}-2′-fluoro-3-biphenylyl)methyl]-2-methyl-1-piperazinecarboxylate.

reactant | 2-chloro-5-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)sulfonyl]-4-fluorobenzoic acid | ClC1=C(C(=O)O)C=C(C(=C1)F)S(=O)(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C23H27ClFN5O5S
reactant | 1,1-dimethylethyl (2S)-4-{[5′-(aminomethyl)-2′-fluoro-3-biphenylyl]methyl}-2-methyl-1-piperazinecarboxylate | 0.1 mmol, 41.3 mg | NCC=1C=CC(=C(C1)C1=CC(=CC=C1)CN1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C)F | C24H32FN3O2
reactant | HOBt | 14.0 mg, 1.0 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 19.0 mg, 1.0 eq
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 1,1-dimethylethyl (2S)-4-[(5′-{[({2-chloro-5-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)sulfonyl]-4-fluorophenyl}carbonyl)amino]methyl}-2′-fluoro-3-biphenylyl)methyl]-2-methyl-1-piperazinecarboxylate | ClC1=C(C=C(C(=C1)F)S(=O)(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2)C(=O)NCC=2C=CC(=C(C2)C2=CC(=CC=C2)CN2C[C@@H](N(CC2)C(=O)OC(C)(C)C)C)F | C47H57ClF2N8O6S
